US04461724
A mixture of 1.67 g of Boc-Ser(Bzl), 3.75 g of His(Tos)-Lys(Z)-OBzl and 13.2 ml of methylene chloride was cooled to -15° C., and 1.28 g of DCC was added to the mixture under stirring. Two hours later, the mixture was further stirred at room temperature for 2 hours. Insoluble matters were filtered off and washed with ethyl acetate. The filtrate and the washing were combined and washed with aqueous citric acid, saturated saline and sodium bicarbonate aqueous solution, dried over sodium sulfate anhydride. Then, the solvent was distilled off. The resultant oil residue was crystallized by adding ether to obtain 4.2 g of Boc-Ser(Bzl)-His(Tos)-Lys(Z)-OBzl.

reactant | Boc-Ser(Bzl) | 1.67 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | His(Tos)-Lys(Z)-OBzl | 3.75 g | N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C34H39N5O7S
reactant | DCC | 1.28 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 13.2 ml | C(Cl)Cl | CH2Cl2
product | Boc-Ser(Bzl)-His(Tos)-Lys(Z)-OBzl | 4.2 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C49H58N6O11S
